US06002013
Preparation of 2-methylamino-benzothiazole-7-carboxylic acid without isolation of the intermediate product (one-pot reaction)
A solution of 39.2 g of methyl isothiocyanate and 50 g of 100% acetic acid is added dropwise to a suspension of 70 g of 3-amino-benzoic acid and 250 g of 100% acetic acid at 75-80° C. in the course of 50 minutes. A solution from which 3-(N'-methylthioureido)-benzoic acid slowly precipitates out in crystalline form is temporarily formed. After the mixture has been allowed to react completely for 2 hours, it is cooled to 500 and a solution of 81.5 g of bromine and 50 g of 100% acetic acid is added dropwise at 45-50° C. in the course of 2 hours. The mixture is then heated to 90-100° C. in the course of 2 hours and allowed to react completely for 2 hours, until the release of gas has ended. After 160 g of acetic acid have been distilled off at 75-80° C. under reduced pressure, 200 g of water have been added to the residue, 67 g of 30% sodium hydroxide solution have been added dropwise, the mixture has been filtered with suction at 75-80° C. and the residue has been washed with water, 73 g of product of melting point >330° C. are obtained. HPLC analysis shows a content of 97% of the title compound, in addition to 0.7% of isomeric 2-methylamino-benzothiazole-5-carboxylic acid. Yield: 68% of theory.

reactant | methyl isothiocyanate | 39.2 g | CN=C=S | C2H3NS
reactant | 3-amino-benzoic acid | 70 g | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
reactant | bromine | 81.5 g | BrBr | Br2
solvent | acetic acid | 50 g | C(C)(=O)O | C2H4O2
solvent | acetic acid | 250 g | C(C)(=O)O | C2H4O2
solvent | acetic acid | 50 g | C(C)(=O)O | C2H4O2
product | 2-methylamino-benzothiazole-7-carboxylic acid | 97% | CNC=1SC2=C(N1)C=CC=C2C(=O)O | C9H8N2O2S
